US03954838
An aqueous solution of 1 g. of 2-amino-N-[(ethoxycarbonylamino)methyl]-2'-benzoyl-4'-chloroacetanilide hydrochloride is made alkaline with 10% sodium carbonate solution. The base precipitated is extracted with methylene chloride. The extracts are dried over sodium sulfate and evaporated. The residue is taken up in ethanol and the solution obtained is boiled under reflux for 10 minutes. The crude product which remains as the residue after evaporation of the solution is crystallized from methanol/water. Ethyl [(7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-yl)methyl]carbamate of melting point 124°-216° is obtained.

reactant | 2-amino-N-[(ethoxycarbonylamino)methyl]-2'-benzoyl-4'-chloroacetanilide hydrochloride | Cl.NCC(=O)N(C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)CNC(=O)OCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl [(7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-yl)methyl]carbamate | ClC=1C=CC2=C(C(=NCC(N2CNC(OCC)=O)=O)C2=CC=CC=C2)C1 | C19H18ClN3O3
